* C:\Lab\beethoven-clock\sim\SPICE\classD-LC.asc
L1 vin N001 15µ
C1 vout 0 1.2µ
R1 vout N001 0.1
V1 vin 0 SINE() AC 1
R2 vout 0 4
.ac dec 100 1k 500k
.step param R 0.1 5 0.5
.backanno
.end
